US03987160
Sodium carbonate (57 g.) was added with stirring to a mixture of hydroxylamine hydrochloride (75 g.), 5-tert-butyl-2-methoxybenzonitrile (50 g.) and water (400 ml.) Ethanol (400 ml.) was added, and the mixture was stirred at room temperature for 45 minutes and then heated under reflux for 18 hours. The ethanol was evaporated in vacuo, and the cooled aqueous suspension was extracted three times with diethyl ether. The combined extracts were dried over magnesium sulphate, filtered, and evaporated. The residual glass was triturated with warm diethyl ether, and the solid obtained was filtered off, washed with diethyl ether, and recrystallised from benzene to give 5-tert-butyl-2-methoxybenzamidoxime (48 g.), m.p. 132°-133° C.

reactant | Sodium carbonate | 57 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 75 g | Cl.NO
reactant | 5-tert-butyl-2-methoxybenzonitrile | 50 g | C(C)(C)(C)C=1C=CC(=C(C#N)C1)OC | C12H15NO
reactant | water | 400 ml | O | H2O
solvent | Ethanol | 400 ml | C(C)O | C2H6O
product | 5-tert-butyl-2-methoxybenzamidoxime | 48 g | C(C)(C)(C)C=1C=CC(=C(C(N)=NO)C1)OC | C12H18N2O2
